US06004991
The product N-[2-(1-carbethoxy-2-acetyl-5-methoxyindol-3-yl)ethyl]acetamide (100 mg) is dissolved in ethanol (10 ml) in a round-bottomed flask (25 ml), 100 mg of Pd(OH)2 are added and the mixture is stirred for 12 h at a normal pressure of hydrogen. After filtration, N-[2-(1-carbethoxy-2-acetyl-5-methoxyindolin-3-yl)-ethyl]acetamide is obtained.

reactant | N-[2-(1-carbethoxy-2-acetyl-5-methoxyindol-3-yl)ethyl]acetamide | 100 mg | C(=O)(OCC)N1C(=C(C2=CC(=CC=C12)OC)CCNC(C)=O)C(C)=O | C18H22N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | N-[2-(1-carbethoxy-2-acetyl-5-methoxyindolin-3-yl)-ethyl]acetamide | C(=O)(OCC)N1C(C(C2=CC(=CC=C12)OC)CCNC(C)=O)C(C)=O | C18H24N2O5
